US05869485
1.27 g of 4-(3-methoxyphenyl)-1-phenyl-2-amino-3-cyanopyrrole are heated at 180° C. with a spatula tipful of dimethylaminopyridine for 7 h in 14 ml of formamide under a nitrogen atmosphere. After cooling to RT, the mixture is treated with water and the crystals obtained are filtered off, washed with water and dried. After chromatography on silica gel (ethyl acetate/hexane 4:1), the product-containing fractions are concentrated, slurried in ether and filtered. 5-(3-Methoxyphenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine having a melting point of 159°-160° C. is obtained. 1H--NMR (d6 -DMSO): delta (ppm)=3.8 (s, 3H), 6.3 (br. s, 2H), 6.9 (br. d, 1H), 7.1 (m, 2H), 7.3-7.45 (m, 2H), 7.55(t, 2H), 7.75 (s, 1H), 7.9 (d, 2H), 8.2 (s, 1H).

reactant | 4-(3-methoxyphenyl)-1-phenyl-2-amino-3-cyanopyrrole | 1.27 g | COC=1C=C(C=CC1)C=1C(=C(N(C1)C1=CC=CC=C1)N)C#N | C18H15N3O
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
reactant | formamide | 14 ml | C(=O)N | CH3NO
product | 5-(3-Methoxyphenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC=CC=C2 | C19H16N4O
